US04906402
(a) Pentyl (R)-2-(4-hydroxyphenoxy)propanoate (PHPP)
A mixture of the (R)-2-(4-hydroxyphenoxy)propionic acid (11 mmole) in toluene (30 ml), 1-pentanol (30 mmole), 98% H2SO4 (0.2 ml) and boric acid (0.1 g) was heated to reflux and water removed by azeotropic distillation on a Dean & Stark apparatus. After 3 hours the excess toluene was allowed to distil. The residue was allowed to cool and diluted with dichloromethane, washed with dilue HCl, water and saturated NaHCO3 solution, dried (MgSO4) and the crude product isolated by evaporation. This was distilled (Kugelrohr b.p. 150°-60° C. at 0.05 mbar) to give PHPP (yield 57%).

reactant | (R)-2-(4-hydroxyphenoxy)propionic acid | 11 mmole | OC1=CC=C(O[C@@H](C(=O)O)C)C=C1 | C9H10O4
reactant | 1-pentanol | 30 mmole | C(CCCC)O | C5H12O
reactant | H2SO4 | 0.2 ml | OS(=O)(=O)O | H2O4S
reactant | boric acid | 0.1 g | B(O)(O)O | BH3O3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Pentyl (R)-2-(4-hydroxyphenoxy)propanoate | yield 57% | OC1=CC=C(O[C@@H](C(=O)OCCCCC)C)C=C1 | C14H20O4
